US05294463
Synthesis of 6 methyl bromohexanoate (Step 2)
0.3 moles of 6 bromohexanoyl chloride are dissolved in 150 ml of benzene. 26 g (0.34 moles) of methanol are added, applying cooling, and then 45 g (0.445 moles) of triethylamine in solution in 50 ml of benzene are added drop by drop. The mixture is agitated at ambient temperature for 16 hours. The reaction medium is then poured into water, acidified with HCl. The benzene is extracted. The raw product is then distilled under vacuum. This gives 43.7 g of ester with a boiling point of approx. 80° C. at a pressure of 2.25.10-2Pa of mercury; the yield is 69.7 percent.

reactant | bromohexanoyl chloride | BrCCCCCC(=O)Cl | C6H10BrClO
reactant | methanol | 0.34 moles, 26 g | CO | CH4O
reactant | triethylamine | 0.445 moles, 45 g | C(C)N(CC)CC | C6H15N
reactant | HCl | Cl | ClH
reactant | water | O | H2O
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | methyl bromohexanoate | yield is 69.7 percent | BrC(C(=O)OC)CCCC | C7H13BrO2
